US04315022
The N-benzylidene derivative of glycine ethyl ester, (prepared as described by G. Stork, et al, J. Org. Chem. 41, 3491 (1976)) (30.2 g 158 mmol) in dry tetrahydrafuran (60 ml) was added dropwise to a stirred suspension of potassium t-butoxide (18.1 g, 160 mmol) in dry tetrahydrofuran (60 ml) under nitrogen at -78° C. The solution immediately became bright red in colour. After thirty minutes, sodium iodide (3 g) was added to the solution, followed by the dropwise addition of 1-methanesulphonyloxy-6-cyano-hex-2-yne (the entire product from the previous reaction) in dry tetrahydrofuran (100 ml). The solution was stirred at -78° C. for one hour and allowed to warm up to room temperature over two hours. The solution was stirred for a further three hours then saturated brine (100 ml) and ether (300 ml) were added. The organic layer was washed with brine until neutral and dried over sodium sulphate. Removal of the solvent under reduced pressure (below 30° C.) gave ethyl 2-(benzylidene-amino)-8-cyano-oct-4-ynoate as a red oil.

reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
reactant | potassium t-butoxide | 160 mmol, 18.1 g | CC(C)([O-])C.[K+]
reactant | sodium iodide | 3 g | [I-].[Na+]
reactant | 1-methanesulphonyloxy-6-cyano-hex-2-yne | CS(=O)(=O)OCC#CCCCC#N | C8H11NO3S
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | ether | 300 ml | CCOCC | C4H10O
product | ethyl 2-(benzylidene-amino)-8-cyano-oct-4-ynoate | C(C1=CC=CC=C1)=NC(C(=O)OCC)CC#CCCCC#N | C18H20N2O2
